US07915411B2
N′-(5-Cyano-2-cyanomethylsulfanyl-thiazol-4-yl)-N,N-dimethyl-formamidine
The title compound was prepared from the reaction of 4-Amino-2-cyanomethylsulfanyl-thiazole-5-carbonitrile with N,N-dimethylformamide dimethyl acetal using the procedure from Example 156B to provide the title compound.

reactant | 4-Amino-2-cyanomethylsulfanyl-thiazole-5-carbonitrile | NC=1N=C(SC1C#N)SCC#N | C6H4N4S2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(5-Cyano-2-cyanomethylsulfanyl-thiazol-4-yl)-N,N-dimethyl-formamidine | C(#N)C1=C(N=C(S1)SCC#N)N=CN(C)C | C9H9N5S2
